US06809199B2
Step A: 1-tert-Butyl-4-Trifluoromethanesulfonlyoxy-1,2,3,6-tetrahydropyridine
A solution of 8.0 g (52 mmol) of 1-tert-butyl-4-oxo-piperidine in 60 mL of anhydrous tetrahydrofuran was cooled to −78° C. under N2. To this was added 72 mL of a 1M solution of lithium hexamethyldisilamide. The solution was stirred at −78° C. for 10 min, warmed to 0° C. for 30 min, and then re-cooled to −78° C. To this was added 28.3 g (72 mmol) of 2-[N,N-bis(trifluoromethylsulfonyl)amino]-5-chloropyridine and the solution was stirred at −30° C. for 2 h. The reaction was quenched by addition of 10 mL saturated NaHCO3 and the solution was concentrated under vacuum. The residue was dissolved in 200 mL ether, washed with 50 mL portions of saturated NaHCO3 solution and brine, dried over Na2SO4, and concentrated. That residue was applied to a Biotage 65 silica gel column that had been pre-treated with 30 mL triethylamine before equilibration with ethyl acetate-hexane-triethylamine, 500:50:1. The column was eluted with the same mixture and homogeneous fractions were pooled and concentrated to give the title compound as a colorless liquid. 1H NMR(CDCl3, 500 MHz): δ 1.154(s, 9H), 2.45 (m, 2H), 2.78 (t, 2H, J=5.4H), 3.28 (m, 2H), 5.76 (m, 1H).

reactant | 1-tert-butyl-4-oxo-piperidine | 52 mmol, 8.0 g | C(C)(C)(C)N1CCC(CC1)=O | C9H17NO
reactant | lithium hexamethyldisilamide | CC=1C(=C([SiH]([SiH-](C1)(C)C)C)C)C.[Li+]
reactant | 2-[N,N-bis(trifluoromethylsulfonyl)amino]-5-chloropyridine | 72 mmol, 28.3 g | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=NC=C(C=C1)Cl)(F)F | C7H3ClF6N2O4S2
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 1-tert-Butyl-4-Trifluoromethanesulfonlyoxy-1,2,3,6-tetrahydropyridine | C(C)(C)(C)N1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C10H16F3NO3S
